US07687490B2
Chloromethyl chloroformate (5.0 ml) was added dropwise to 100 ml of a solution of 11.7 ml of triethylamine and 11.3 ml of N,N-di-n-butylamine in cyclopentyl methyl ether under ice cooling, and the mixture was stirred at room temperature for 13 hr. 2 N hydrochloric acid (100 ml) was added thereto, followed by separation. The organic layer was washed with 100 ml of a 5% aqueous sodium hydrogencarbonate solution and 100 ml of semi-saturated brine, was dried over anhydrous magnesium sulfate, and was filtered, and the solvent was removed by distillation under the reduced pressure to give 12.7 g of chloromethyl N,N-di-n-butylcarbamate.

reactant | Chloromethyl chloroformate | 5.0 ml | ClC(=O)OCCl | C2H2Cl2O2
reactant | triethylamine | 11.7 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-di-n-butylamine | 11.3 ml | C(CCC)NCCCC | C8H19N
reactant | hydrochloric acid | 2 N, 100 ml | Cl | ClH
solvent | cyclopentyl methyl ether | COC1CCCC1 | C6H12O
product | chloromethyl N,N-di-n-butylcarbamate | 12.7 g | C(CCC)N(C(OCCl)=O)CCCC | C10H20ClNO2
